US05539112
104 g (796 mmol) of 2,4-difluorophenol was dissolved in 800 ml of dichloromethane, 132 ml of triethylamine and 92.0 ml of ethyl chloroformate were added under ice-cooling and the mixture was stirred at -10° to 0° C. for 2 hours. The reaction solution was washed with an aqueous saturated solution of sodium chloride and dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure to give 156 g (97%) of 2,4-difluoro-O-ethoxycarbonylphenol.

reactant | 2,4-difluorophenol | 796 mmol, 104 g | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | triethylamine | 132 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 92.0 ml | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
product | 2,4-difluoro-O-ethoxycarbonylphenol | 156 g, 97% | FC1=C(C=CC(=C1)F)OC(=O)OCC | C9H8F2O3
